US06809110B2
In analogy to the procedure described in example 10 d1, [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester was treated with LiOH to obtain [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid as colorless liquid.

reactant | [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)C(C)(C)C)C)OCC)=O | C30H39NO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C=1SC(=C(N1)CCOC1=CC(=C(C=C1)CC(C(=O)O)OCC)C)C | C28H35NO4S
